US05045549
7-(5-Formyl-2,5-diazabicyclo-(2.2.1)hept-2-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
0.5 g (1.2 m Mol) 7-(2,5-diazabicyclo(2.2.1)hept-2-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid was suspended in 20 ml DMF and treated with 3 ml of the mixed anhydride of acetic and formic acid. After 90 mins. stirring at room temperature the volatiles were removed under reduced pressure. The oily residue was triturated with ether, the residue filtered and recrystallized from a mixture of 20 ml DMF and 5 ml ligroin to give 0.24 g (45.3%) of product, mp 252° C.-258° C. dec.

reactant | 7-(2,5-diazabicyclo(2.2.1)hept-2-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.5 g | C12N(CC(NC1)C2)C2=C(C=C1C(C(=CN(C1=C2)C2=C(C=C(C=C2)F)F)C(=O)O)=O)F | C21H16F3N3O3
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | formic acid | C(=O)O | CH2O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-(5-Formyl-2,5-diazabicyclo-(2.2.1)hept-2-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.24 g, 45.3% | C(=O)N1C2CN(C(C1)C2)C2=C(C=C1C(C(=CN(C1=C2)C2=C(C=C(C=C2)F)F)C(=O)O)=O)F | C22H16F3N3O4
